US07723352B2
11-(3-fluorophenyl)-9-methoxy-3,4-dihydro-2H-pyrido[1,2-b]isoquinoline-1,6-dione
To a mixture of 2-(3-fluorobenzoyl)-4-methoxybenzoyl chloride (3.36 g) and piperidin-3-one hydrochloride (1.88 g) in 54 ml of toluene was added 2,6-lutidine (4.01 ml). The reaction was heated at reflux (3:10 pm) for 24 h, then partitioned between EtOAc and 400 mL of 1 N HCl. The aqueous solution was extracted twice more with EtOAc. The combined organic solutions were dried (MgSO4) and concentrated. Flash chromatography (40-100% EtOAc/hexanes) to gave the titled compound.

reactant | 2-(3-fluorobenzoyl)-4-methoxybenzoyl chloride | 3.36 g | FC=1C=C(C(=O)C2=C(C(=O)Cl)C=CC(=C2)OC)C=CC1 | C15H10ClFO3
reactant | piperidin-3-one hydrochloride | 1.88 g | Cl.N1CC(CCC1)=O
reactant | 2,6-lutidine | 4.01 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | toluene | 54 ml | C1(=CC=CC=C1)C | C7H8
product | 11-(3-fluorophenyl)-9-methoxy-3,4-dihydro-2H-pyrido[1,2-b]isoquinoline-1,6-dione | FC=1C=C(C=CC1)C1=C2N(C(C=3C=CC(=CC13)OC)=O)CCCC2=O | C20H16FNO3
